US06265575B1
Part B. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 3-Methyl-4-methoxyphenyl Ketone
A slurry of 750 mg (1.65 mmol) of 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 3-bromo-4-methoxyphenyl ketone (Part A) in 15 mL of toluene was treated with 75 mg (0.07 mmol) of tetrakis(triphenylphosphine)palladium(0) and 0.54 mL (3.9 mmol) of tetrabutyltin. The tube was sealed and the contents were heated at 130° C. for 15 h. The reaction was cooled, evaporated in vacuo, and the residue was taken up in 75 mL of Et2O. Saturated aq KF (75 mL) was added and the mixture was stirred vigorously for 6 h. The two layers were separated and the organic layer was washed with H2O (3×75 mL). The organic phase was dried over Na2SO4 and evaporated in vacuo to give 934 mg of an oil which was purified by radial chromatography (SiO2; 25% EtOAc in hexanes) to afford 602 mg (1.55 mmol; 94%) of the title compound as a white solid.

reactant | 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 3-bromo-4-methoxyphenyl ketone | 1.65 mmol, 750 mg | BrC=1C=C(C=CC1OC)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C23H17BrO3S
reactant | tetrabutyltin | 3.9 mmol, 0.54 mL | C(CCC)[Sn](CCCC)(CCCC)CCCC
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 3-Methyl-4-methoxyphenyl Ketone | 934 mg | CC=1C=C(C=CC1OC)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C24H20O3S
